US07045545B1
N-tert-butoxycarbonyl 1-(3-chloro-5-fluorobenzofur-7-yl)-2-aminopropane
A mixture of 0.30 gm (0.82 mMol) N-tert-butoxycarbonyl 1-(2,3-dichloro-2,3-dihydro-5-fluorobenzofur-7-yl)-2-aminopropane and 0.135 gm 18-crown-6 in 6.5 mL 1M potassium tert-butoxide in tert-butanol was stirred at 35° C. for 1 hour. The reaction mixture was diluted with 4 mL tert-butanol was continued for an additional 2.5 hours. The reaction mixture was cooled to room temperature and diluted with 50 mL diethyl ether followed by 5 mL water and 20 mL saturated aqueous ammonium chloride. The phases were separated and the aqueous phase was extracted with 25 mL diethyl ether. The organic phases were combined, dried over sodium sulfate and concentrated under reduced pressure to provide an off-white solid. This solid residue was subjected to silica gel chromatography, eluting with hexane containing 7% ethyl acetate. Fractions containing the desired compound were combined and concentrated under reduced pressure to provide 0.151 gm (56%) of the desired compound as a white solid.

reactant | N-tert-butoxycarbonyl 1-(2,3-dichloro-2,3-dihydro-5-fluorobenzofur-7-yl)-2-aminopropane | 0.82 mMol, 0.30 gm | C(C)(C)(C)OC(=O)NC(CC1=CC(=CC=2C(C(OC21)Cl)Cl)F)C | C16H20Cl2FNO3
reactant | 18-crown-6 | 0.135 gm | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | water | 5 mL | O | H2O
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | potassium tert-butoxide | 1M, 6.5 mL | CC(C)([O-])C.[K+]
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 4 mL | C(C)(C)(C)O | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | N-tert-butoxycarbonyl 1-(3-chloro-5-fluorobenzofur-7-yl)-2-aminopropane | 0.151 gm, 56% | C(C)(C)(C)OC(=O)NC(CC1=CC(=CC=2C(=COC21)Cl)F)C | C16H19ClFNO3
